US04602030
1-Bromo-3-(4'-tert-butylphenylthio)-propan-2-ol
To a stirred solution of 75.3 g [46.7 ml (0.55 mole)] 1-bromo-2,3-epoxypropane (epibromohydrin) in 14 ml 1:1 methanol/triethylamine cooled to 0°-5° C. in an ice-water bath, 83 g (0.5 mole) p-tert-butyl-thiophenol was added dropwise. After the addition was complete, the reaction mixture was allowed to come to room temperature and was stirred at room temperature for about 2 hours. The reaction mixture was dissolved in ethyl ether; washed with 1N sodium hydroxide, with 2N hydrochloric acid, with water until neutral and then with brine (twice). The organic phase was dried, filtered and concentrated to give 140.6 g of the above-identified product as an orange-red oil.

reactant | 1-bromo-2,3-epoxypropane | 0.55 mole, 46.7 ml, 75.3 g | BrCC1CO1 | C3H5BrO
reactant | methanol triethylamine | CO.C(C)N(CC)CC
reactant | p-tert-butyl-thiophenol | 0.5 mole, 83 g | C(C)(C)(C)C1=CC=C(C=C1)S | C10H14S
solvent | ethyl ether | C(C)OCC | C4H10O
product | 1-Bromo-3-(4'-tert-butylphenylthio)-propan-2-ol | 140.6 g | BrCC(CSC1=CC=C(C=C1)C(C)(C)C)O | C13H19BrOS
